US06756378B2
A mixture of pentafluorophenyl 4-[N′-(2-methylphenyl)ureido]phenylacetate (560 mg, 1.24 mmol), methyl (S)-4-(2-amino-1-propoxy)benzoate (260 mg, 1.24 mmol), Et3N (0.260 mL, 1.87 mmol) in DMF (8 mL) was stirred at room temp for 3 hr. The mixture was diluted with EtOAc and the solution was washed with 0.5 N HCl, brine, and dried over Na2SO4. After removal of the solvent, the residue was purified by recrystallization from MeOH—CHCl3-n-hexane to give 210 mg (36%) (S)-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetylamino]-1-propoxy]benzoic acid as a white crystalline powder. 1H-NMR (DMSO-d6) δ1.17 (d, 3 H, J=6.8 Hz), 2.24 (s, 3 H), 3.32 (s, 2 H), 3.81 (s, 3 H), 3.92-4.03 (m, 2 H), 4.08-4.15 (m, 1 H), 6.92-6.95 (m, 1 H), 7.04-7.06 (m, 2 H), 7.12-7.18 (m, 4 H), 7.35-7.39 (m, 2 H), 7.83-7.85 (m, 1 H), 7.89-7.92 (m, 3 H), 8.12-8.14 (m, 1 H), 8.97 (s, 1 H).

reactant | pentafluorophenyl 4-[N′-(2-methylphenyl)ureido]phenylacetate | 1.24 mmol, 560 mg | CC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C22H15F5N2O3
reactant | methyl (S)-4-(2-amino-1-propoxy)benzoate | 1.24 mmol, 260 mg | N[C@H](COC1=CC=C(C(=O)OC)C=C1)C | C11H15NO3
reactant | Et3N | 1.87 mmol, 0.260 mL | CCN(CC)CC | C6H15N
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetylamino]-1-propoxy]benzoic acid | 210 mg, 36% | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)N[C@H](COC1=CC=C(C(=O)O)C=C1)C | C27H29N3O6
